US07173058B2
3-(7-Acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl) -propionic acid methyl ester
3-(7-Acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid methyl ester was prepared by the procedure of example 20 from 3-(7-amino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid methyl ester (2.8 g, 7 mmol) and acetyl chloride (0.57 ml, 8 mmol) in THF (20 ml) to afford the title compound as white solid (2.5 g, 81%). The product was used in the next step without further purification.

reactant | 3-(7-amino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid methyl ester | 7 mmol, 2.8 g | COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC)N1C(C2=C(C=CC=C2C1)N)=O)=O | C21H22F2N2O5
reactant | acetyl chloride | 8 mmol, 0.57 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(7-Acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl) -propionic acid methyl ester | 2.5 g, 81% | COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC)N1C(C2=C(C=CC=C2C1)NC(C)=O)=O)=O | C23H24F2N2O6
